US04454338
In 60 ml of acetic acid, was suspended 3 g of 6-amidino-2-naphthyl 4-nitrocinnamate tosylsulfonate. To the suspension, while being cooled in ice and stirred, was added 1.8 g of zinc dust. The mixture was stirred for 24 hours and removed of insolubles by filtration. The filtrate was neutralized, admixed with a saturated aqueous sodium hydrogencarbonate solution and the precipitate was suspended in methanol and admixed with methanesulfonic acid to dissolve the precipitate. Ethyl ether was added to the solution and the resulting oily substance was left standing at room temperature to solidify. Upon recrystallization from a methano-ethyl ether mixture, there was obtained 0.14 g of 6-amidino-2-naphthyl 4-aminocinnamate dimethanesulfonate.

reactant | 6-amidino-2-naphthyl 4-nitrocinnamate tosylsulfonate | 3 g | S(=O)(=O)(C1=CC=C(C)C=C1)S(=O)(=O)O.[N+](=O)([O-])C1=CC=C(C=CC(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=C1
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.8 g | [Zn] | Zn
product | 6-amidino-2-naphthyl 4-aminocinnamate dimethanesulfonate | 0.14 g | CS(=O)(=O)O.CS(=O)(=O)O.NC1=CC=C(C=CC(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=C1 | InChI=1S/C20H17N3O2.2CH4O3S/c21-17-7-1-13(2-8-17)3-10-19(24)25-18-9-6-14-11-16(20(22)23)5-4-15(14)12-18;2*1-5(2,3)4/h1-12H,21H2,(H3,22,23);2*1H3,(H,2,3,4)
